US05574051
5-(5-Chloro-benzothiazol-2-ylsulfanyl)-thiazolidine-2,4-dione, (III)
This compound was prepared from 5-bromo-thiazolidine-2,4-dione and 5-chloro-2-mercaptobenzothiazole according to the procedure described in Example 5: mp 253-255 (dec).

reactant | 5-bromo-thiazolidine-2,4-dione | BrC1C(NC(S1)=O)=O | C3H2BrNO2S
reactant | 5-chloro-2-mercaptobenzothiazole | ClC=1C=CC2=C(N=C(S2)S)C1 | C7H4ClNS2
product | 5-(5-Chloro-benzothiazol-2-ylsulfanyl)-thiazolidine-2,4-dione | ClC=1C=CC2=C(N=C(S2)SC2C(NC(S2)=O)=O)C1 | C10H5ClN2O2S3
